US06277778B1
Bis(1-(trimethylsilyl)-2-(tert-butyldimethylsiloxy)-3-indenyl)ethane
To a solution of bis(2-(tert-butyldimethylsiloxy)indenyl)ethane (10.38 g, 20.0 mmol) in THF (100 mL) at −20° C. was added dropwise n-BuLi (16.1 mL of a 2.5 M solution in hexane, 40.2 mmol) and the reaction mixture was stirred for 3 hours at room temperature. To the resulting solution was added dropwise chlorotrimethylsilane (6.85 g, 63.0 mmol, 8.0 mL) at 0° C. After completed addition the reaction mixture was stirred overnight at room temperature and the solvents were evaporated. The remaining orange solid was extracted with CH2Cl2 and filtrated through celite. The solvent was evaporated and the product was dissolved in Et2O (150 mL). Concentration and cooling to 0° C. gave 10.29 g (77.6%) of a 2:1 diastereomeric mixture of the title compound as off-white crystals. EIMS (calcd/found): m/e 662.3827/662.3834. 1H NMR (CD2Cl2, δ, major/minor diastereomer): 7.51-7.49 (m, 2H, major); 7.42-7.40 (m, 2H, minor); 7.29-7.24 (m, 4+2H, major/minor); 7.22-7.17 (m, 2H, minor); 7.08-7.02 (m, 2+2H, major/minor); 3.29 (s, 1H, minor); 3.27 (s, 1H, major); 3.00-2.96 (m, AA′, 2H, minor); 2.72-2.65 (m, AA′BB′, 4H, major); 2.44-2.40 (m, BB′, 2H, minor); 1.02 (s, 18H, major); 1.01 (s, 18H, minor); 0.20 (s, 6H, minor); 0.19 (s, 6H, major); 0.10 (s, 6H, minor); 0.05 (s, 6H, major); 0.02 (s, 18H, minor); 0.01 (s, 18H, major). 13C NMR (CD2Cl2, δ, major diastereomer): 158.32; 144.56; 139.24; 125.09; 122.74; 121.98; 119.89; 118.08; 45.08; 26.14; 24.06; 18.52; −2.39; −3.40; −4.66. 13C NMR (CDCl3, δ, minor diastereomer): 158.08; 144.50; 139.14; 124.97; 122.62; 121.95; 119.95; 118.50; 45.13; 26.14; 23.86; 18.47; −2.29; −3.40; −4.24.

reactant | bis(2-(tert-butyldimethylsiloxy)indenyl)ethane | 20.0 mmol, 10.38 g | O([Si](C)(C)C(C)(C)C)C=1C(C2=CC=CC=C2C1)C(C)C1C(=CC2=CC=CC=C12)O[Si](C)(C)C(C)(C)C | C32H46O2Si2
reactant | n-BuLi | [Li]CCCC
reactant | chlorotrimethylsilane | 63.0 mmol, 8.0 mL, 6.85 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Bis(1-(trimethylsilyl)-2-(tert-butyldimethylsiloxy)-3-indenyl)ethane | C[Si](C1C(=C(C2=CC=CC=C12)C(C)C1=C(C(C2=CC=CC=C12)[Si](C)(C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(C)C | C38H62O2Si4
